US07470723B2
Lithium bis(trimethylsilyl)amide (5.3 mL, 5.3 mmol) was added dropwise to a stirred suspension of triphenylmethylphosphonium bromide (1.89 g, 5.3 mmol) in anhydrous THF (30 mL) at 0° C. After 10 min at cold, the reaction mixture was stirred at room temperature for 40 min. The Wittig reagent was then added dropwise to a stirred solution of (3,5-dimethoxy-phenyl)-(4-methoxy-3-nitro-phenyl)-methanone (1.40 g, 4.4 mmol) in THF (30 mL) at 0° C. The reaction mixture was stirred at room temperature for 2 h. The solution was poured into ice water (100 mL) and extracted with CH2Cl2 (4×40 mL). The combined organic layers were washed with water (2×40 mL), brine (40 mL) and dried (MgSO4). Removal of solvent and chromatography (Silica Gel) gave 3-(3,5-dimethoxy-phenyl)-3-(4-methoxy-3-nitro-phenyl)-acrylonitrile as a solid (1.15 g, 83% yield): 1H NMR (CDCl3) δ 3.78 (s, 6H, 2OCH3), 3.98 (s, 3H, OCH3), 5.46-5.47 (d, J=4.3 Hz, 2H, CH2), 6.43-6.47 (m, 3H, Ar), 7.02-7.06 (d, J=8.8 Hz, 1H, Ar), 7.48-7.52 (dd, J=2.4, 8.8 Hz, 1H, Ar), 7.85-7.86 (d, J=2.4 Hz, 1H, Ar); 3C NMR (CDCl3) δ 55.39, 56.62, 100.13, 106.53, 113.18, 115.08, 125.10, 133.67, 133.86, 139.49, 142.53, 147.51, 152.41, 160.75.

reactant | Lithium bis(trimethylsilyl)amide | 5.3 mmol, 5.3 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | triphenylmethylphosphonium bromide | 5.3 mmol, 1.89 g | [Br-].C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)[PH3+]
reactant | (3,5-dimethoxy-phenyl)-(4-methoxy-3-nitro-phenyl)-methanone | 4.4 mmol, 1.40 g | COC=1C=C(C=C(C1)OC)C(=O)C1=CC(=C(C=C1)OC)[N+](=O)[O-] | C16H15NO6
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-(3,5-dimethoxy-phenyl)-3-(4-methoxy-3-nitro-phenyl)-acrylonitrile | 1.15 g, 83% yield | COC=1C=C(C=C(C1)OC)C(=CC#N)C1=CC(=C(C=C1)OC)[N+](=O)[O-] | C18H16N2O5
